US09255093B2
To a solution of 2-hydroxy-4-methylbenzaldehyde (12 g, 88 mmol) in 432 mL of CH3CN was added Cs2CO3 (34.5 g, 106 mmol) followed by 2-bromoacetonitrile (6.75 mL, 97 mmol), After the mixture was stirred at room temperature for 6 hr, the mixture was filtered through Celite to remove solid, washed with DCM, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel flash chromatography, 100% Heptane-20% Ethyl Acetate/80% Heptane) to give a white solid, 2-(2-formyl-5-methylphenoxy)acetonitrile (14.2 g). LCMS retention time=1.06 minutes (LC method 3); MS (m+1)=175.8. 1H NMR (400 MHz, DMSO-d6) δ 2.41 (s, 3H), 5.33 (s, 2H), 7.05 (d, J=7.8 Hz, 1H), 7.20 (s, 1H), 7.68 (s, 1H), 10.26 (d, J=0.8 Hz, 1H).

reactant | 2-hydroxy-4-methylbenzaldehyde | 88 mmol, 12 g | OC1=C(C=O)C=CC(=C1)C | C8H8O2
reactant | Cs2CO3 | 106 mmol, 34.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromoacetonitrile | 97 mmol, 6.75 mL | BrCC#N | C2H2BrN
solvent | CH3CN | 432 mL | CC#N | C2H3N
product | 2-(2-formyl-5-methylphenoxy)acetonitrile | 14.2 g | C(=O)C1=C(OCC#N)C=C(C=C1)C | C10H9NO2
